US07148176B2
0.005 mol % of Pd(OAc)2, 0.01 mol % of hexyldiadamantyl-phosphine and 1 mol % of Cu(I)I are added to a mixture of 12 mmol of trimethylsilylacetylene and 10 mmol of 4-chloronitrobenzene in 40 ml of diethylamine. The mixture is stirred under reflux until conversion is complete. The readily volatile constituents are then removed under vacuum. The residue is dissolved in toluene and washed with water. After chromatography on silica gel, 89% of 1-(4-nitrophenyl)-2-trimethylsilylacetylene is obtained.

reactant | hexyldiadamantyl-phosphine | C(CCCCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C26H43P
reactant | trimethylsilylacetylene | 12 mmol | C[Si](C)(C)C#C | C5H10Si
reactant | 4-chloronitrobenzene | 10 mmol | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | diethylamine | 40 ml | C(C)NCC | C4H11N
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(4-nitrophenyl)-2-trimethylsilylacetylene | 89% | [N+](=O)([O-])C1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13NO2Si
